US05817671
N-[ethyl]-N'-[3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridin-5-yl]thiourea
Beginning with 0.15 gm (0.65 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.068 mL (0.78 mMol) ethyl isothiocyanate, 0.032 gm (10%) of the title compound were recovered essentially by the procedure of Example 122. An analytical sample was crystallized from aqueous ethanol.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.65 mMol, 0.15 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | ethyl isothiocyanate | 0.78 mMol, 0.068 mL | C(C)N=C=S | C3H5NS
product | N-[ethyl]-N'-[3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridin-5-yl]thiourea | 0.032 gm, 10% | C(C)NC(=S)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C16H23N5S
